* C:\Users\eswar\OneDrive\Documents\3010-5.asc
V1 IN 0 PWL(0 5 1 10)
C1 N002 0 1µ
XU1 N002 N002 MP_01 0 IN MP_02 MP_03 IN LT3010-5
S1 N001 N002 NC_04 NC_05 5 SW 10
Rload1 N001 0 1K
.tran 1
.lib LT3010.lib
.backanno
.end
